US09422312B2
Step 1: N′-(4-Bromophenyl)-N-methyl-methanesulfonimidamide
The title compound is prepared from N-(4-bromophenyl)methanesulfinamide and methylamine following a procedure analogous to that described for Intermediate 3 (Step 2). LC (method 1): tR=0.85 min; Mass spectrum (ESI+): m/z=263, 265 [M+H]+.

reactant | N-(4-bromophenyl)methanesulfinamide | BrC1=CC=C(C=C1)NS(=O)C | C7H8BrNOS
reactant | methylamine | CN | CH5N
product | N′-(4-Bromophenyl)-N-methyl-methanesulfonimidamide | BrC1=CC=C(C=C1)N=S(=O)(NC)C | C8H11BrN2OS
